US04774253
4.44 g (14.5 mmol) of 2-[[2-(4-chlorophenyl)-4-methyl-5-oxazolyl]methoxy]-2-methylpropionic acid were dissolved in 40 ml of dry dichloromethane and 1 drop of dimethylformamide was added. 1.9 g (16 mmol) of thionyl chloride were added and the mixture was heated to reflux for 4 hours. 70 ml of ethanol were added slowly to a stirred solution of the thus-obtained acid chloride at 0° C. and the mixture was stirred for 18 hours. The solvent was removed under reduced pressure and the residue was purified by chromatography on silica gel using 17% by volume ethyl acetate in hexane for the elution. After evaporation of the eluate there were obtained 2.8 g (57.2%) of ethyl 2-[[2-(4-chlorophenyl)-4-methyl-5-oxazolyl]methoxy]-2-methylpropionate of melting point 75°-76° C.

reactant | 2-[[2-(4-chlorophenyl)-4-methyl-5-oxazolyl]methoxy]-2-methylpropionic acid | 14.5 mmol, 4.44 g | ClC1=CC=C(C=C1)C=1OC(=C(N1)C)COC(C(=O)O)(C)C | C15H16ClNO4
reactant | thionyl chloride | 16 mmol, 1.9 g | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 70 ml | C(C)O | C2H6O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | ethyl 2-[[2-(4-chlorophenyl)-4-methyl-5-oxazolyl]methoxy]-2-methylpropionate | 2.8 g, 57.2% | ClC1=CC=C(C=C1)C=1OC(=C(N1)C)COC(C(=O)OCC)(C)C | C17H20ClNO4
